US08957093B2
Step 3: (S)-1-((2′-(N-(tert-butyl)sulfamoyl)-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide
The title compound was prepared following the same general protocol as described in Step 8, Example 1, using the (S)-1-(3-isopropylphenyl)ethanamine hydrochloride and 1-((2′-(N-(tert-butyl)sulfamoyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid. ESI-MS (m/z): 636 [M+H]+.

reactant | (S)-1-(3-isopropylphenyl)ethanamine hydrochloride | Cl.C(C)(C)C=1C=C(C=CC1)[C@H](C)N
reactant | 1-((2′-(N-(tert-butyl)sulfamoyl)-[1,1′-biphenyl]-4-yl)methyl)-2,3-dimethyl-1H-indole-5-carboxylic acid | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)O)C)C | C28H30N2O4S
product | (S)-1-((2′-(N-(tert-butyl)sulfamoyl)-[1,1′-biphenyl]-4-yl)methyl)-N-(1-(3-isopropylphenyl)ethyl)-2,3-dimethyl-1H-indole-5-carboxamide | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=C(C2=CC(=CC=C12)C(=O)N[C@@H](C)C1=CC(=CC=C1)C(C)C)C)C | C39H45N3O3S
